* Z:\mnt\design.r\spice\examples\1922-1full.asc
XU1 MP_01 N017 N017 N026 N019 N024 N029 N012 N016 N014 N018 N028 N027 N020 +10.3 N013 N015 N004 0 N030 LTC1922-1
R1 N019 0 10K
R2 N023 0 100m
L1 N002 N001 1m Rpar=1K
V1 IN 0 48
R3 IN N016 310K
R4 N016 0 12K
R5 N026 N025 5K
C1 N029 0 1p
C2 N030 0 152p
R6 N001 N014 12K
R7 N014 0 600
R8 N002 N012 12K
R9 N012 0 600
L2 N031 N033 .4m Rpar=1K
L3 N031 OUT 2.4µ Rpar=1K
L4 N033 OUT 2.4µ Rpar=1K
C3 OUT 0 100µ Rser=100m
R10 OUT N024 3.15K
R11 N024 0 1K
R12 N023 N017 510
C4 0 N017 100p
C5 N025 N024 1000p
C6 N002 0 5000p
C7 N001 0 5000p
V2 +10.3 0 10.3
XU2 NC_02 NC_03 NC_04 NC_05 NC_06 NC_07 NC_08 NC_09 LTC1693-2
XU3 NC_10 NC_11 NC_12 NC_13 NC_14 NC_15 NC_16 NC_17 LTC1693-2
XU4 NC_18 NC_19 NC_20 NC_21 NC_22 NC_23 NC_24 NC_25 LTC1693-1
M§Q1 N033 N034 0 0 FDS6680A
M§Q2 N031 N032 0 0 FDS6680A
M§Q3 N002 N021 N023 N023 FDS6680A
M§Q4 N001 N022 N023 N023 FDS6680A
M§Q5 IN N009 N001 N001 FDS6680A
L5 N011 0 1m
L6 N010 N001 1m
C8 N009 N010 .2µ
C9 N011 N003 .2µ
D1 N001 N009 BZX84C10L
R13 N009 N001 2K
M§Q6 IN N008 N002 N002 FDS6680A
L7 N006 0 1m
L8 N007 N002 1m
C10 N008 N007 .2µ
C11 N006 N005 .2µ
D2 N002 N008 BZX84C10L
R14 N008 N002 2K
Rload OUT 0 10
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
K1 L1 L2 .99
K3 L7 L8 1
K2 L5 L6 1
.tran 460u startup
.lib LTC1693-1.sub
.lib LTC1693-2.sub
.lib LTC1922-1.sub
.backanno
.end
